US07807709B2
c. 8-(3-Methoxy-propoxy)-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid
The mixture of 8-hydroxy-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid ethyl ester (1.85 g, 6.24 mmol) in dioxane (10 mL) and 2N NaOH (5.0 mL) is stirred at 60° C. over 1 h, then cooled to room temperature and acidified (pH 1) with 2N HCl. Volatiles are removed under reduced pressure to afford a suspension. The precipitate is filtered, washed with ice-water and dried in vacuo overnight to give the title product as white solid. TLC, Rf (hexane/AcOEt 2:1+1% AcOH)=0.07. MS: 267.0 [M−H]+. 1H-NMR (DMSO-d6): δ 1.96 (m, 2H), 3.26 (s, 3H), 3.48 (m, 2H), 4.05 (m, 2H), 4.27 (m, 2H), 4.31 (m, 2H), 7.07 (d, 1H9, 7.11 (d, 1H), 12.8 (s, br, 1H) ppm.

reactant | 8-hydroxy-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid ethyl ester | 6.24 mmol, 1.85 g | C(C)OC(=O)C1=CC2=C(OCCO2)C(=C1)O | C11H12O5
reactant | HCl | 2N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | NaOH | 2N, 5.0 mL | [OH-].[Na+]
product | 8-(3-Methoxy-propoxy)-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid | COCCCOC1=CC(=CC2=C1OCCO2)C(=O)O | C13H16O6
